US08735384B2
To a solution of (2-bromo-3-methylphenyl)(2-(methylthio)pyrimidin-4-yl)methanone (0.10 g, 0.309 mmol) in EtOH (10 mL) was added Raney 2800 nickel, slurry, in water (0.022 mL, 3.41 mmol) and the resulting mixture was reflux until starting material was consumed (2 h). The mixture was brought to RT and decanted. The remaining Ni was extracted with DCM/NH3 (2M in MeOH). The combined organic layers were concentrated and the residue obtained was extracted with DCM and the extracts were combined and concentrated to afford a yellow oil as (2-bromo-3-methylphenyl)(pyrimidin-4-yl)methanol which was used without purification.

reactant | (2-bromo-3-methylphenyl)(2-(methylthio)pyrimidin-4-yl)methanone | 0.309 mmol, 0.10 g | BrC1=C(C=CC=C1C)C(=O)C1=NC(=NC=C1)SC | C13H11BrN2OS
reactant | water | 3.41 mmol, 0.022 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | nickel | [Ni] | Ni
product | (2-bromo-3-methylphenyl)(pyrimidin-4-yl)methanol | BrC1=C(C=CC=C1C)C(O)C1=NC=NC=C1 | C12H11BrN2O
